US08791161B2
4-chloro-N-{5-chloro-2-[(2-hydroxyethyl)thio]phenyl}-3-(trifluoromethyl)benzenesulfonamide
Following General Procedure A and B, the title compound was prepared from 2-amino-4-chloro-benzenethiol, 2-bromo-ethanol, and 4-chloro-3-(trifluoromethyl)benzene-1-sulfonyl chloride.

reactant | 2-amino-4-chloro-benzenethiol | NC1=C(C=CC(=C1)Cl)S | C6H6ClNS
reactant | 2-bromo-ethanol | BrCCO | C2H5BrO
reactant | 4-chloro-3-(trifluoromethyl)benzene-1-sulfonyl chloride | ClC1=C(C=C(C=C1)S(=O)(=O)Cl)C(F)(F)F | C7H3Cl2F3O2S
product | 4-chloro-N-{5-chloro-2-[(2-hydroxyethyl)thio]phenyl}-3-(trifluoromethyl)benzenesulfonamide | ClC1=C(C=C(C=C1)S(=O)(=O)NC1=C(C=CC(=C1)Cl)SCCO)C(F)(F)F | C15H12Cl2F3NO3S2
